US06262292B1
7.9 g of m-cyanobenzylamine, 8.4 g of hexamethylenetetramine, 40 ml of water and 40 ml of acetic acid were mixed and reacted at 104° C. for 2 hours while stirring. The reaction solution was cooled to room temperature and thereto 12 g of concentrated sulfuric acid was added. The solvent was concentrated to dry in an evaporator with a water bath at 70° C. The concentration residue was separated by toluene/water and washed with water. The toluene layer obtained was concentrated until crystals were precipitated. The concentrated toluene solvent was placed in water and after removing toluene by azeotropic distillation, the residue was cooled to room temperature. The crystals precipitated were collected by filtration, washed with water and dried to obtain 5.9 g (yield: 74%) of m-cyanobenzaldehyde. The purity was 99% or more.

reactant | m-cyanobenzylamine | 7.9 g | C(#N)C=1C=C(CN)C=CC1 | C8H8N2
reactant | hexamethylenetetramine | 8.4 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | 40 ml | O | H2O
reactant | sulfuric acid | 12 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | m-cyanobenzaldehyde | 5.9 g, yield: 74% | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
